US07713996B2
A 2 N trimethylaluminium solution in heptane (30.8 mmol, 15.41 mL, 3 equiv.) was added dropwise over 10 minutes to a solution of 4-amino-2-trifluoromethylbenzonitrile (30.8 mmol, 5.7 g, 3 equiv.) in dry dioxane (20 mL). The reaction mixture was stirred for a further 30 minutes then a solution of 1H-indole-6-carboxylic acid methyl ester (10.3 mmol, 1.8 g, 1 equiv.) in dioxane was added portionwise over 5 minutes and the reaction mixture was stirred at 106° C. for 16 hours. The solution was poured onto a 1M aqueous sodium tartrate solution (100 mL) and diluted with dichloromethane (50 mL). The organic layer was separated, dried over Na2SO4 and the solvent was removed under vacuum. The residue was dissolved in dichloromethane (10 mL) and sonicated for 5 minutes. The resultant solid was filtered to afford 1H-indole-6-carboxylic acid (4-cyano-3-trifluoromethyl-phenyl)-amide, 2.4 g (71% yield). LC @215 nm; Rt 1.50: 97%, m/z (ES+): 330 (M+H+.); δH (250 MHz; d6-DMSO) 10.89 (1H, s), 8.54 (1H, s), 8.32 (2H, m), 8.17 (1H, s), 8.13 (1H, s), 7.70 (2H, m), 7.62 (1H, t), 6.57 (1H, s).

reactant | trimethylaluminium | 2 N | C[Al](C)C
reactant | heptane | 30.8 mmol, 15.41 mL, 3 equiv. | CCCCCCC | C7H16
reactant | 4-amino-2-trifluoromethylbenzonitrile | 30.8 mmol, 5.7 g, 3 equiv. | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | 1H-indole-6-carboxylic acid methyl ester | 10.3 mmol, 1.8 g, 1 equiv. | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | sodium tartrate | 1M, 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1H-indole-6-carboxylic acid (4-cyano-3-trifluoromethyl-phenyl)-amide | 71% yield | C(#N)C1=C(C=C(C=C1)NC(=O)C1=CC=C2C=CNC2=C1)C(F)(F)F | C17H10F3N3O
